US06248754B1
N-(8-Styryl-2-trifluroacetyl-1,2,3,4-tetrahydroisoquinolin-7-yl)-4-methoxy-3-trifluoromethylbenzamide
A mixture of N-(8-bromo-2-trifluoroacetyl-1,2,3,4-tetrahydroisoquinolin-7-yl)-4-methoxy-3-trifluoromethylbenzamide (0.525 g), palladium diacetate (0.011 g), tris(o-tolyl)phosphine (0.03 g), triethylamine (0.15 g) and styrene (0.16 g) were combined in acetonitrile and warmed to reflux for 23 h. The mixture was cooled, partitioned between dichloromethane/water, the organic phase separated and solvent removed at reduced pressure. The residue was column chromatographed (silica gel, ethyl acetate/hexane mixtures as eluant) to provide the title compound (0.46 g).

reactant | N-(8-bromo-2-trifluoroacetyl-1,2,3,4-tetrahydroisoquinolin-7-yl)-4-methoxy-3-trifluoromethylbenzamide | 0.525 g | BrC=1C(=CC=C2CCN(CC12)C(C(F)(F)F)=O)NC(C1=CC(=C(C=C1)OC)C(F)(F)F)=O | C20H15BrF6N2O3
reactant | tris(o-tolyl)phosphine | 0.03 g | C1(=C(C=CC=C1)P(C1=C(C=CC=C1)C)C1=C(C=CC=C1)C)C | C21H21P
reactant | triethylamine | 0.15 g | C(C)N(CC)CC | C6H15N
reactant | styrene | 0.16 g | C=CC1=CC=CC=C1 | C8H8
solvent | acetonitrile | C(C)#N | C2H3N
catalyst | palladium diacetate | 0.011 g | C(C)(=O)[O-].C(C)(=O)[O-].[Pd+2]
product | N-(8-Styryl-2-trifluroacetyl-1,2,3,4-tetrahydroisoquinolin-7-yl)-4-methoxy-3-trifluoromethylbenzamide | 0.46 g | C(=CC1=CC=CC=C1)C=1C(=CC=C2CCN(CC12)C(C(F)(F)F)=O)NC(C1=CC(=C(C=C1)OC)C(F)(F)F)=O | C28H22F6N2O3
